US08383616B2
Step v: [5-(2,4-bis-benzyloxy-5-chloro-phenyl)-isoxazol-3-yl]-(4-methyl-piperazin-1-yl)-methanone
N-methylpiperazine (25.4 mmol) was added to a suspension of ethyl 5-(2,4-bis(benzyloxy)-5-chlorophenyl)isoxazole-3-carboxylate (2.1 mmol) in EtOH (5 ml) and the reaction mixture was heated to 90° C. under stirring for 18 h. The reaction mixture was poured into a mixture of water (15 ml) and AcOEt (30 ml). After standard extraction, the organic layer was washed with water and brine, dried over Na2SO4, and evaporated. The resulting solid was purified by silica gel column chromatography (CHCl3/MeOH: 95/0.5) to give the desired compound (620 mg, 57%).

reactant | N-methylpiperazine | 25.4 mmol | CN1CCNCC1 | C5H12N2
reactant | ethyl 5-(2,4-bis(benzyloxy)-5-chlorophenyl)isoxazole-3-carboxylate | 2.1 mmol | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=CC(=NO1)C(=O)OCC | C26H22ClNO5
reactant | water | 15 ml | O | H2O
reactant | AcOEt | 30 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 5 ml | CCO | C2H6O
product | [5-(2,4-bis-benzyloxy-5-chloro-phenyl)-isoxazol-3-yl]-(4-methyl-piperazin-1-yl)-methanone | 620 mg, 57% | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=CC(=NO1)C(=O)N1CCN(CC1)C | C29H28ClN3O4
